US05017212
60% oily sodium hydride (3.9 g) is suspended in 100 ml of dimethylformamide, to which 22.8 g of 2-hydroxy-5,7-dimethylpyrazolo[1,5-a]pyrimidine is added under cooling to maintain the reaction solution at 20°-30° C. and then stirred for 30 minutes at the above temperature. To the reaction solution, 22.5 g of dimethylthiocarbamoyl chloride is added during 1.5 hours and then stirred for 2 hours at 70°-80° C. After cooling, 800 ml of 1% aqueous potassium hydroxide solution is added to the reaction solution and stirred for 30 minutes at room temperature. The precipitate as collected by filtration is recrystallized from ethanol to give 18.5 g of 2-(N,N-dimethyl thiocarbamoyloxy)-5,7-dimethylpyrazolo[1,5-a]pyrimidine. mp. 216°-217° C.

reactant | sodium hydride | 3.9 g | [H-].[Na+]
reactant | 2-hydroxy-5,7-dimethylpyrazolo[1,5-a]pyrimidine | 22.8 g | OC1=NN2C(N=C(C=C2C)C)=C1 | C8H9N3O
reactant | dimethylthiocarbamoyl chloride | 22.5 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | potassium hydroxide | 800 ml | [OH-].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(N,N-dimethyl thiocarbamoyloxy)-5,7-dimethylpyrazolo[1,5-a]pyrimidine | 18.5 g | CN(C(=S)OC1=NN2C(N=C(C=C2C)C)=C1)C | C11H14N4OS
